US08222263B2
N-{5-[(cyclopropylamino)methyl]-2-methylphenyl}-4-[(4-phenylquinazolin-2-yl)amino]benzamide.
A mixture of N-(5-formyl-2-methylphenyl)-4-(4-phenylquinazolin-2-ylamino)benzamide (250 mg, 0.546 mmol), cyclopropylamine (238 μL, 3.44 mmol), dichloromethane (10 m:), tetrahydrofuran (2 drops) and acetic acid (2 drops) was stirred at rt for 1 h. Sodium triacetoxyborohydride (275 mg, 1.30 mmol) was added and the mixture was stirred overnight. The crude reaction was diluted with dichloromethane, washed with saturated sodium bicarbonate and saturated sodium chloride and dried over sodium sulfate. The solution was concentrated on a rotary evaporator and purified by HPLC to give a yellow solid (143 mg, 52%). 1H NMR (400 MHz, DMSO-d6): δ 10.32 (s, 1H), 9.69 (s, 1H), 8.17-8.16 (d, 2H), 8.00-7.98 (s, 2H), 7.90-7.86 (m, 3H), 7.85-7.79 (m, 2H), 7.65-7.64 (m, 3H), 7.44-7.40 (t, 1H), 7.31 (s, 1H), 7.20-7.18 (d, 1H), 7.12-7.10 (d, 1H), 3.70 (s, 2H), 2.22 (s, 3H), 2.05 (m, 1H), 0.35-0.32 (m, 2H), 0.27-0.25 (m, 2H). MS (EI) for C32H29N5O: 500.2 (MH+).

reactant | N-(5-formyl-2-methylphenyl)-4-(4-phenylquinazolin-2-ylamino)benzamide | 0.546 mmol, 250 mg | C(=O)C=1C=CC(=C(C1)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O)C | C29H22N4O2
reactant | cyclopropylamine | 3.44 mmol, 238 μL | C1(CC1)N | C3H7N
reactant | Sodium triacetoxyborohydride | 1.30 mmol, 275 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
catalyst | tetrahydrofuran | 2 drops | O1CCCC1 | C4H8O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{5-[(cyclopropylamino)methyl]-2-methylphenyl}-4-[(4-phenylquinazolin-2-yl)amino]benzamide | 143 mg, 52% | C1(CC1)NCC=1C=CC(=C(C1)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O)C | C32H29N5O
